US04478962
PREPARATION OF DIFURFURYL MALONATE
Furfuryl alcohol (196 parts, 2 moles) and 132 parts (1 mole) of ddimethyl malonate are mixed, and 0.5 -0.75 percent of sodium metal added. The mixture is heated to a temperature in the range from 101°-115° C. under a nitrogen atmosphere. Methanol is evolved and removed as the reaction progressed. After a period of four hours, a waxy solid is obtained. The liquid product obtained after washing with water is difurfuryl malonate.

reactant | Furfuryl alcohol | 2 moles | C(C1=CC=CO1)O | C5H6O2
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
reactant | sodium | [Na] | Na
solvent | Methanol | CO | CH4O
product | DIFURFURYL MALONATE | C(CC(=O)OCC1=CC=CO1)(=O)OCC1=CC=CO1 | C13H12O6
